US08017602B2
2,2-Dimethoxyacetaldehyde (0.59 mL) was added to a solution of (R)-pentan-2-amine hydrochloride (0.48 g) and triethylamine (0.54 mL) in methanol (4 mL) and the mixture stirred for 2 h. A slurry of palladium on carbon (10%, 20 mg) in methanol (1 mL) was added and the mixture hydrogenated at 5 bar for 20 h. The mixture was then filtered and in vacuo. The resulting residue was triturated with diethyl ether (5 mL) and the resulting white solid extracted with further diethyl ether (2×5 mL). The combined ether fractions were concentrated in vacuo to afford (R)—N-(2,2-dimethoxyethyl)pentan-2-amine (0.745 g) as an oil. 1H NMR (400 MHz, CDCl3) δ 4.92 (t, J=5.4 Hz, 1H), 3.47 (s, 3H), 3.47 (s, 3H), 3.25-3.15 (m, 1H), 2.99 (ddd, J=27.9, 12.7, 5.5 Hz, 2H), 1.86-1.77 (m, 1H), 1.64-1.54 (m, 1H), 1.49-1.32 (m, 5H), 0.95 (t, J=7.3 Hz, 3H)

reactant | 2,2-Dimethoxyacetaldehyde | 0.59 mL | COC(C=O)OC | C4H8O3
reactant | (R)-pentan-2-amine hydrochloride | 0.48 g | Cl.C[C@H](CCC)N
reactant | triethylamine | 0.54 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 4 mL | CO | CH4O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | methanol | 1 mL | CO | CH4O
product | (R)—N-(2,2-dimethoxyethyl)pentan-2-amine | 0.745 g | COC(CN[C@H](C)CCC)OC | C9H21NO2
